US07361703B2
Triphenyl phosphite;
diphenyl alkyl phosphites; phenyl dialkyl phosphites; tris(nonylphenyl) phosphite [WESTON 399, available from GE Specialty Chemicals]; tris(2,4-di-tert-butylphenyl) phosphite [IRGAFOS 168, available from Ciba Specialty Chemicals Corp.]; and bis(2,4-di-tert-butyl-6-methylphenyl) ethyl phosphite [IRGAFOS 38, available from Ciba Specialty Chemicals Corp.]; and 2,2′,2″-nitrilo[triethyltris(3,3′5,5′-tetra-tert-butyl-1,1′-biphenyl-2,2′-diyl) phosphite [IRGAFOS 12, available from Ciba Specialty Chemicals Corp.].

reactant | tris(nonylphenyl) phosphite | P(OC1=C(C=CC=C1)CCCCCCCCC)(OC1=C(C=CC=C1)CCCCCCCCC)OC1=C(C=CC=C1)CCCCCCCCC | C45H69O3P
reactant | tris(2,4-di-tert-butylphenyl) phosphite | P(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C42H63O3P
reactant | bis(2,4-di-tert-butyl-6-methylphenyl) ethyl phosphite | P(OC1=C(C=C(C=C1C)C(C)(C)C)C(C)(C)C)(OC1=C(C=C(C=C1C)C(C)(C)C)C(C)(C)C)OCC | C32H51O3P
product | Triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
